US05639782
Step A: Preparation of 3-(2-hydroxyethylthio)-5-methoxy-4-propoxybenzaldehyde
5-iodo-3-methoxy-4-propoxybenzaldehyde (6.166 g, 19.27 mmole), copper powder (10.41 g, 163.78 mmole), and 45 ml dimethylformamide (DMF) are stirred vigorously under a N2 atmosphere at 140° C. for 3 hours. To this slurry is added 2-hydroxy ethyldisulfide (4.75 g, 30.8 mmole) predissolved in 10 ml DMF. The reaction is stirred at 140° C. overnight. The copper is removed by suction filtration through celite, and is washed thoroughly with ethyl acetate. The filtrate is concentrated to an oil in vacuo and then redissolved in dichloromethane. The organic layer is washed with H2O, dried over magnesium sulfate, and concentrated to an oil in vacuo which is purified by flash column chromatography using 1:1 hex/ethyl acetate as eluent to yield a light yellow oil (4.00 g, 77%).

reactant | 5-iodo-3-methoxy-4-propoxybenzaldehyde | 19.27 mmole, 6.166 g | IC=1C(=C(C=C(C=O)C1)OC)OCCC | C11H13IO3
reactant | 2-hydroxy ethyldisulfide | 30.8 mmole, 4.75 g | OCCSSCCO | C4H10O2S2
solvent | DMF | 10 ml | CN(C=O)C | C3H7NO
catalyst | copper | 163.78 mmole, 10.41 g | [Cu] | Cu
solvent | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
product | 3-(2-hydroxyethylthio)-5-methoxy-4-propoxybenzaldehyde | 4.00 g, 77% | OCCSC=1C=C(C=O)C=C(C1OCCC)OC | C13H18O4S
